US08236823B2
To 2-fluoro-5-(3-(oxazol-5-yl)pyridin-2-yloxy)benzoic acid (196 mg, 0.653 mmol) in CH2Cl2 (6.0 mL) was added oxalyl chloride (0.28 mL, 3.3 mmol) followed by DMF (2 drops). The mixture was stirred under nitrogen at rt for 15 hours. The reaction was concentrated to yield 2-fluoro-5-(3-(oxazol-5-yl)pyridin-2-yloxy)benzoyl chloride, which was used without further purification.

reactant | 2-fluoro-5-(3-(oxazol-5-yl)pyridin-2-yloxy)benzoic acid | 0.653 mmol, 196 mg | FC1=C(C(=O)O)C=C(C=C1)OC1=NC=CC=C1C1=CN=CO1 | C15H9FN2O4
reactant | oxalyl chloride | 3.3 mmol, 0.28 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 6.0 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 2-fluoro-5-(3-(oxazol-5-yl)pyridin-2-yloxy)benzoyl chloride | FC1=C(C(=O)Cl)C=C(C=C1)OC1=NC=CC=C1C1=CN=CO1 | C15H8ClFN2O3
